US03996282
Proceeding in a manner similar to that described above in 1a, and using N-(3-dimethylaminopropyl)benzamide, and 3-nitro-4-methoxybenzyl chloride, there was obtained N,N-dimethyl-N-(3-nitro-4-methoxybenzyl)-N-3-benzamidopropylammonium chloride, as an off white solid which melted at 133°-136° C.

reactant | N-(3-dimethylaminopropyl)benzamide | CN(CCCNC(C1=CC=CC=C1)=O)C | C12H18N2O
reactant | 3-nitro-4-methoxybenzyl chloride | [N+](=O)([O-])C=1C=C(CCl)C=CC1OC | C8H8ClNO3
product | N,N-dimethyl-N-(3-nitro-4-methoxybenzyl)-N-3-benzamidopropylammonium chloride | [Cl-].C[N+](CCCNC(C1=CC=CC=C1)=O)(CC1=CC(=C(C=C1)OC)[N+](=O)[O-])C | InChI=1S/C20H25N3O4.ClH/c1-23(2,13-7-12-21-20(24)17-8-5-4-6-9-17)15-16-10-11-19(27-3)18(14-16)22(25)26;/h4-6,8-11,14H,7,12-13,15H2,1-3H3;1H
